US07872026B2
a. Preparation of 2,2,2-Trifluoro-N-isopropylacetamide
15 g (260 mmol) of isopropylamine are dissolved in 450 ml of anhydrous THF under an inert atmosphere. 21 ml (260 mmol) of pyridine and 50 mg (cat) of dimethylaminopyridine are added. 40 ml (280 mmol) of trifluoroacetic anhydride are then slowly added dropwise to the reaction medium. The solution is stirred for 15 hours at room temperature and then poured into 500 ml of water and extracted with ethyl acetate. The organic phase is washed with water, dried and concentrated under reduced pressure. A thick oil is obtained, which crystallizes in the form of pink crystals (m=40.5 g, yield=100%).

reactant | isopropylamine | 260 mmol, 15 g | C(C)(C)N | C3H9N
reactant | pyridine | 260 mmol, 21 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trifluoroacetic anhydride | 280 mmol, 40 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 450 ml | C1CCOC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 2,2,2-Trifluoro-N-isopropylacetamide | yield=100% | FC(C(=O)NC(C)C)(F)F | C5H8F3NO
